US08802697B2
Synthesis of 5-((3,5-dimethoxyphenyl)ethynyl)-N-(2-methyl-6-nitrophenyl)pyrimidin-2-amine
A mixture of 5-bromo-N-(2-methyl-6-nitrophenyl)pyrimidin-2-amine (573 mg, 3.0 mmol), 1-ethynyl-3,5-dimethoxybenzene (483 mg, 3.0 mmol), triphenylphosphine (157 mg, 0.60 mmol), bis(triphenylphosphine)palladium(II) chloride (210 mg, 0.30 mmol), copper(I) iodide (57 mg, 0.30 mmol) and diethylamine (1.50 ml, 15.0 mmol) in N,N-dimethylformamide (10 mL) was degassed with nitrogen three times, and then stirred at 80° C. for 2 hrs. LCMS showed the reaction was completed. The mixture was cooled to RT, quenched with water (20 mL) and extracted with ethyl acetate (3×80 mL). The combined organic layers were separated, washed with water and brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (petroleum ether:ethyl acetate=4:1) to afford the title compound as a yellow solid (460 mg, 39%). MS (ES+) C21H8N4O4 requires: 390. found: 391 [M+H]+.

reactant | 5-bromo-N-(2-methyl-6-nitrophenyl)pyrimidin-2-amine | 3.0 mmol, 573 mg | BrC=1C=NC(=NC1)NC1=C(C=CC=C1[N+](=O)[O-])C | C11H9BrN4O2
reactant | 1-ethynyl-3,5-dimethoxybenzene | 3.0 mmol, 483 mg | C(#C)C1=CC(=CC(=C1)OC)OC | C10H10O2
reactant | triphenylphosphine | 0.60 mmol, 157 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylamine | 15.0 mmol, 1.50 ml | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.30 mmol, 210 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.30 mmol, 57 mg | [Cu]I
product | 5-((3,5-dimethoxyphenyl)ethynyl)-N-(2-methyl-6-nitrophenyl)pyrimidin-2-amine | 460 mg, 39% | COC=1C=C(C=C(C1)OC)C#CC=1C=NC(=NC1)NC1=C(C=CC=C1[N+](=O)[O-])C | C21H18N4O4
